US04788196
N-{4-[4-(4-Pyridyl)piperazin-1-yl]phenyl}sulphamide
A solution of 1-(4-aminophenyl)-4-(4-pyridyl)piperazine (0.50 g) and sulphamide (1.90 g) in dioxan (30 ml) was heated under reflux for 1 hour and then evaporated. The residue was triturated with water and the mixture was filtered. The solid was crystallised from a mixture of N,N-dimethylformamide and water to give the title compound (0.11 g), m.p. 216°-219° C. Found: C,54.03; H,5.59; N,20.68. C15H19N5O2S requires: C,54.05; H,5.75; N,21.01%.

reactant | 1-(4-aminophenyl)-4-(4-pyridyl)piperazine | 0.50 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H18N4
reactant | sulphamide | 1.90 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | N-{4-[4-(4-Pyridyl)piperazin-1-yl]phenyl}sulphamide | 0.11 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NS(=O)(=O)N | C15H19N5O2S
